US09085540B2
A mixture of 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide (500 mg), 4-(4-methylpiperazin-1-yl)aniline (300 mg), methanesulfonic acid (201 μl), and N-methylpyrrolidone (2 mL) was heated in a microwave reaction device at 200° C. for 1 hour. To the reaction mixture was added 4-(4-methylpiperazin-1-yl)aniline (150 mg) and the mixture was heated at 200° C. for 30 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the precipitated solid was collected by filtration and then dried. The obtained solid was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1) to obtain 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (308 mg) as a yellow solid.

reactant | 3-chloro-6-ethyl-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 500 mg | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])CC)C(=O)N | C13H11ClN4O4
reactant | 4-(4-methylpiperazin-1-yl)aniline | 300 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | methanesulfonic acid | 201 μl | CS(=O)(=O)O | CH4O3S
reactant | 4-(4-methylpiperazin-1-yl)aniline | 150 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 308 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C24H27N7O4
